US05677311
(S)-N-(3-Benzyl-3-azabicyclo[3.2.1]oct-8-yl)-4-amino-5-chloro-2-(1-methyl-2-butynyl)oxybenzamide
The condensation of 530 mg of (S)-4-amino-5-chloro-2-[(1-methyl-2-butynyl)oxy]benzoic acid with 850 mg of 8-amino-3-benzylazabicyclo[3.2.1]octane was conducted in a similar manner to that of the Example 34 by the use of WSC.HCl and 1-hydroxybenzotriazole (HOBT). The product was purified by silica gel column chromatography (5% methanol/chloroform) to give 220 mg of the title compound.

reactant | (S)-4-amino-5-chloro-2-[(1-methyl-2-butynyl)oxy]benzoic acid | 530 mg | NC1=CC(=C(C(=O)O)C=C1Cl)O[C@H](C#CC)C | C12H12ClNO3
reactant | 8-amino-3-benzylazabicyclo[3.2.1]octane | 850 mg | NC1N2CC(CC1CC2)CC2=CC=CC=C2 | C14H20N2
reactant | WSC.HCl | CCN=C=NCCCN(C)C.Cl
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
product | (S)-N-(3-Benzyl-3-azabicyclo[3.2.1]oct-8-yl)-4-amino-5-chloro-2-(1-methyl-2-butynyl)oxybenzamide | 220 mg | C(C1=CC=CC=C1)N1CC2CCC(C1)C2NC(C2=C(C=C(C(=C2)Cl)N)O[C@H](C#CC)C)=O | C26H30ClN3O2
